Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia, melena
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ with a history of L MCA CVA (with R hemiplegia), 
DM2, who presented from his PCP office for GI bleeding with Hct 
drop to 31.2 from 40.2 on ___.

Per report, two days prior to admission, the patient was found 
to have NBNB vomiting. He seemed more 'weak' than his baseline 
and on the day of admission, the patient's caretaker noticed BRB 
in the toilet. He was brought to his PCP's office where labs 
showed this drop in Hgb / Hct. He may have had chest pain, 
although this is unclear. EKG was without changes. He has not 
had any GI bleeding in the past. He is on ASA 325mg but no other 
anticoagulants.

In the ED, initial vitals were 98.1 66 94/53 20. His labs were 
notable for a stable Hct of 31.2, lactate 2.7, BUN:Cr 62:1.6 
(from Cr of 1.13 in ___. Rectal exam showed melena with 
grossly guaiac positive stool in the vault. He then had CT A&P 
(no contrast) to rule out ischemic bowel that was notable only 
for some renal hypodenisities to small to characterize without 
contrast. He was started on a pantoprazole gtt and given 1 u 
pRBCs prior to transfer to the FICU. Repeat Hct was 33.2

On arrival to the FICU, the patient is oriented to himself. He 
denies any chest or abdominal pain. 

 
Past Medical History:
HTN
BPH
ANEMIA  
DM
COLONIC POLYP 
ESOPHAGEAL REFLUX 
HEARING LOSS - SENSORINEURAL
TREMOR 
HYPERCHOLESTEROLEMIA 
L MCA CVA with residual right hemiplegia

 
Social History:
___
Family History:
None reported
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Alert, oriented only to person. Does not give the 
correct birthday.
HEENT: Sclera anicteric, dry mucous membranes. 
Neck: JVP flat
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft non tender, non distended. No rebound or guarding. 
Rectal deferred given done in ED 
Ext: well perfused, no clubbing, cyanosis

 
Pertinent Results:
ADMISSION LABS:
=======================
___ 05:50PM BLOOD WBC-9.1 RBC-3.40* Hgb-10.2* Hct-31.2* 
MCV-92 MCH-29.9 MCHC-32.6 RDW-13.6 Plt ___
___ 05:50PM BLOOD Neuts-67.9 ___ Monos-6.6 Eos-1.9 
Baso-0.2
___ 05:50PM BLOOD Glucose-117* UreaN-62* Creat-1.6* Na-142 
K-3.9 Cl-101 HCO3-34* AnGap-11
___ 05:50PM BLOOD ALT-13 AST-17 AlkPhos-57 TotBili-0.2
___ 05:50PM BLOOD Lipase-55
___ 05:50PM BLOOD cTropnT-<0.01
___ 02:05AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:50PM BLOOD Albumin-3.9
___ 02:05AM BLOOD Calcium-9.7 Phos-2.9 Mg-2.0
___ 06:26AM BLOOD Lactate-1.2
.
HEMOGLOBIN TREND:
=======================
.                     Hgb 
___ 06:25    10.6
___ 21:34    11.2
___ 06:05    10.4
___ 02:05    10.9
___ 17:50    10.2 
.
IMAGING:
================
___ CT A/P
IMPRESSION:
No definite acute pathology identified.
Diverticulosis but no evidence of diverticulitis.
Enlarged prostate.
Bilateral renal cysts, other hypodensities are too small to 
characterize.
Small fat-containing umbilical hernia. 
.
___ 08:15AM BLOOD WBC-8.4 RBC-3.60* Hgb-10.9* Hct-32.7* 
MCV-91 MCH-30.3 MCHC-33.4 RDW-13.6 Plt ___
___ 06:18AM BLOOD WBC-7.8 RBC-3.66* Hgb-11.0* Hct-32.7* 
MCV-89 MCH-29.9 MCHC-33.5 RDW-13.4 Plt ___
___ 06:25AM BLOOD WBC-7.8 RBC-3.54* Hgb-10.6* Hct-31.5* 
MCV-89 MCH-29.9 MCHC-33.6 RDW-13.3 Plt ___
___ 09:34PM BLOOD WBC-9.4 RBC-3.59* Hgb-11.2* Hct-32.3* 
MCV-90 MCH-31.1 MCHC-34.5 RDW-13.9 Plt ___
___ 07:40PM URINE Color-Straw Appear-Clear Sp ___
.
EGD ___:
Impression:Granularity and erythema in the duodenal bulb 
compatible with duodenitis
Normal mucosa in the esophagus
Normal mucosa in the stomach
Otherwise normal EGD to third part of the duodenum
Recommendations:Please check H.pylori stool antigen
Pantoprazole 40 mg bid for eight weeks
Inpatient GI team will continue to follow
 
Brief Hospital Course:
This a ___ with a history of L MCA CVA (with R hemiplegia), DM2, 
who presented from his PCP office for likely subacute GI bleed
.
# Upper GI bleed:-presumed due to duodenitis and erythema seen 
on EGD. The patient presented  with a 9 point Hct drop (from 
___ with melena on exam concerning for a  upper GI bleed. 
___ score of 9. He was s/p 1 unit pRBC in the ED with 
stable H/H during admission while on the medical floor. GI was 
consulted and performed and EGD ___ which revealed duodenitis. 
GI recommended BID PPI x 8 weeks and to send stool antigen for 
H.pylori and treat if positive. However, stool was unable to be 
sent during admission as pt did not have enough stool specimen. 
Pt's diet was advanced ___ successfully and he did not have any 
further episodes of GI bleeding after EGD. Colonoscopy/flex sig 
was attempted as well on ___. However, pt was unable to 
tolerate or continue with the prep and study was non-diagnostic 
and unable to be performed. Discussed with pt's daugther that 
even if pt were to have a colonic lesion found he is unlikely to 
desire a surgical intervention and dtg agreed. HCT stable on DC. 
See above. Plan is to f/u with PCP for repeat HCT check, outpt 
GI and to have consideration of outpt colonoscopy with prolonged 
prep and to send stool antigen for H.pylori and treat if 
positive.

.
# Acute kidney injury: The patient presented with elevated 
BUN:Cr (baseline BUN wnl, Cr 1.13). Likely component from bleed 
and hypovolemia also from history of recent vomiting while still 
taking diuretics. S/p 1 uPRBC. Creatinine improved. Pt was 
restarted on his home BP medications on the day of DC. Can 
recheck Cr at f/u appointment.
.
# Hypertension: In the setting of GI bleed (and ___ held 
lisinopril and HCTZ. These were resumed upon discharge after 
ensuring hemodynamic stability. 
.
# DM2, controlled but with neuropathy: Given ___, held 
metformin. Pt was given HISS, metformin resumed upon DC. 
.
# HLD: On simvastatin at home.
.
# CVA with residual right hemiplegia: full dose ASA on hold 
given GIB.  Resumed aspirin at 81 mg upon DC given the above.
.
Transitional care
1.repeat HCT, Cr, send stool for H.pylori and treat prn. Outpt 
GI f/u.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Simvastatin 80 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Gabapentin 300 mg PO QID 

 
Discharge Medications:
1. Gabapentin 300 mg PO QID 
2. Lisinopril 20 mg PO DAILY 
3. Simvastatin 80 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anemia, acute
Gastrointestinal bleeding

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You were sent from your PCP's office to the hospital for concern 
of gastrointestinal bleeding, given your drop in your red blood 
cell counts (acute anemia).  You received 1 unit transfusion of 
blood.  Your blood counts were stable after transfusion.  You 
underwent endoscopy which showed inflammation in your small 
intestine "duodenitis".  We also recommended that you decrease 
your daily aspirin to 81mg from 325mg to decrease the risk of 
bleeding. You were started on a medication called pantoprazole 
(protonix) to take twice a day for 8 weeks for your bleeding. We 
attempted a colonoscopy/flexible sigmoidoscopy but this was 
unsuccessful due to poor prep. You may continue to discuss the 
need for this test with your outpatient providers.
.
Please see your physicians as listed.
.
Please take your medications as listed.
 
Followup Instructions:
___